US07420001B2
N-[(4′-{[(5-amino-1-benzofuran-2-yl)carbonyl]amino}-1,1′-biphenyl-4-yl)sulfonyl]-L-valine-Wang resin (0.3 g), from Example 7, was sulfonylated with benzenesulfonyl chloride according to the procedure of Example 8 followed by cleavage from the resin to provide 4′-[(5-benzenesulfonylamino-benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonyl-L-valine. LCMS MH+ (m/z) 648. 1H NMR (300 MHz, CD3OD): δ 7.92-7.69 ppm (m, 9H), 7.58-7.43 ppm (m, 6H), 7.22-7.18 ppm (dd, 2H, J1=9.0 Hz, J2=2.5 Hz), 3.64 ppm (d, 1H, J=5.0 Hz), 2.09-2.01 ppm (m, 1H), 0.97 ppm (d, 3H, J=7.0 Hz), 0.90 ppm (d, 3H, J=7.0 Hz).

reactant | N-[(4′-{[(5-amino-1-benzofuran-2-yl)carbonyl]amino}-1,1′-biphenyl-4-yl)sulfonyl]-L-valine | NC=1C=CC2=C(C=C(O2)C(=O)NC2=CC=C(C=C2)C2=CC=C(C=C2)S(=O)(=O)N[C@@H](C(C)C)C(=O)O)C1 | C26H25N3O6S
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | 4′-[(5-benzenesulfonylamino-benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonyl-L-valine | C1(=CC=CC=C1)S(=O)(=O)NC=1C=CC2=C(C=C(O2)C(=O)NC2=CC=C(C=C2)C2=CC=C(C=C2)S(=O)(=O)N[C@@H](C(C)C)C(=O)O)C1 | C32H29N3O8S2
